US05385922
N-acetyl-4-carboxy-2-(2-carboxyphenyl)thiazolidine
A solution of 6 of 2-carboxybenzaldehyde and 4.8 g of cysteine in 100 ml of water was stirred for 15 minutes. After adding 10 g of K2CO3, the solution was cooled to 0° C. and a solution of 8 g of acetic anhydride in THF was added. After everything had been added, the solution was stirred for a further 15 minutes at 0° C. and then for 1 hour at room temperature. The solution was concentrated under reduced pressure in order to evaporate THF, acidified to pH 1-2 with sulphuric acid and extracted with ethyl acetate. After drying over MgSO4 and evaporation of the solvent, the residue was crystallised from ethyl acetate/diethyl ether. Yield 22%.

reactant | 2-carboxybenzaldehyde | C(=O)(O)C1=C(C=O)C=CC=C1 | C8H6O3
reactant | cysteine | 4.8 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | K2CO3 | 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic anhydride | 8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 100 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N-acetyl-4-carboxy-2-(2-carboxyphenyl)thiazolidine | Yield 22% | C(C)(=O)N1C(SCC1C(=O)O)C1=C(C=CC=C1)C(=O)O | C13H13NO5S
